US09301951B2
Intermediate 14c: 2-(5-fluoro-2-nitrophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
Into a 250-mL round bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 5-fluoro-2-nitrophenyl trifluoromethanesulfonate (18 g, 62.28 mmol, 1.00 equiv) in 1,4-dioxane (150 mL), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (24 g, 94.49 mmol, 1.50 equiv), Pd(dppf)Cl2 (1.5 mg, 0.03 equiv), and potassium acetate (12.6 g, 128.44 mmol, 2.00 equiv). The resulting solution was stirred overnight at 80° C. The mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (1:5˜ethyl acetate). The product was obtained as 10 g (60%) of a yellow solid.

reactant | 5-fluoro-2-nitrophenyl trifluoromethanesulfonate | 62.28 mmol, 18 g, 1.00 equiv | FC(S(=O)(=O)OC1=C(C=CC(=C1)F)[N+](=O)[O-])(F)F | C7H3F4NO5S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 94.49 mmol, 24 g, 1.50 equiv | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 128.44 mmol, 12.6 g, 2.00 equiv | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 1.5 mg, 0.03 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(5-fluoro-2-nitrophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 10 g, 60% | FC=1C=CC(=C(C1)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-] | C12H15BFNO4
